US07091214B2
7-Bromo-2-butyl-1-isobutyl-1 H-imidazo[4,5-c]quinolin-4-amine and 2-propoxybenzeneboronic acid were coupled according to the general procedure described in Part J of Example 1. The product was recrystallized from isopropanol, collected by filtration, dissolved in CH2Cl2, and then precipitated with hexanes to afford 2-butyl-1-isobutyl-7-(2-propoxyphenyl)-1H-imidazo[4,5-c]quinolin-4-amine as a white powder, m.p. 174.5–176.0° C.

reactant | 7-Bromo-2-butyl-1-isobutyl-1 H-imidazo[4,5-c]quinolin-4-amine | BrC=1C=CC=2C3=C(C(=NC2C1)N)N=C(N3CC(C)C)CCCC | C18H23BrN4
reactant | 2-propoxybenzeneboronic acid | C(CC)OC1=C(C=CC=C1)B(O)O | C9H13BO3
product | 2-butyl-1-isobutyl-7-(2-propoxyphenyl)-1H-imidazo[4,5-c]quinolin-4-amine | C(CCC)C=1N(C2=C(C(=NC=3C=C(C=CC23)C2=C(C=CC=C2)OCCC)N)N1)CC(C)C | C27H34N4O
